US04739050
2-(4-Acetoxyphenyl)-2-(N-acetylmethylamino)-3,4-dihydro-4-methyl-3-oxo-2H-1,4-benzothiazine (compound No. 70)
To a stirred suspension of 3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-2-methylamino-3-oxo-2H-1,4-benzothiazine (3.0 g, compound No. 66) in acetic anhydride (14.3 ml), fused sodium acetate (3.3 g) is added. The mixture is stirred for 3.5 hours at 85° C. and then poured into a mixture of ethyl acetate and saturated aqueous sodium bicarbonate solution. The separated crystals are collected by filtration to give 3.3 g (85.7%) of the title compound.

reactant | 3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-2-methylamino-3-oxo-2H-1,4-benzothiazine | OC1=CC=C(C=C1)C1(SC2=C(N(C1=O)C)C=CC=C2)NC | C16H16N2O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 14.3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(4-Acetoxyphenyl)-2-(N-acetylmethylamino)-3,4-dihydro-4-methyl-3-oxo-2H-1,4-benzothiazine | 3.3 g, 85.7% | C(C)(=O)OC1=CC=C(C=C1)C1(SC2=C(N(C1=O)C)C=CC=C2)NCC(C)=O | C20H20N2O4S
